Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-0.972862017509
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9],5.10975405963
[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.7570401813799998
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.90053062626
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.76891658795
[H:1][C:2](=[O:3])[C:12](/[C:10](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[H:11])([H:13])[H:14]>>[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]1([H:13])[H:14],2.30178430569
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],4.06076519433
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([O:4][O:5][H:6])#[C:7][H:8].[H:1][C:2]=[C:9]([H:10])[H:11],2.42002040194
[C:10]([H:11])([H:12])[H:13].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-2.96226302086
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.37090729865
[H:7].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.98891404291
[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-6.309882548169999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][C:10]1[H:11],1.60636989149
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](\[H:3])(=[C:4](/[H:5])[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11].[O:1],3.73209281426
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14],4.41237546547
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.0254804858999975
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.24502380741
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.97442714639
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2],5.3796425920200015
[C:1]#[C:2][C:3]([O:4][H:5])[C:6][O:8][H:9].[H:7]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][H:9],-4.6474735563300005
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.584826581590001
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2],8.74857425548
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],0.980582125971
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[C:5]([H:6])[O:7][C:8]([H:9])=[C:10][H:11].[H:1][C:2]#[C:3][H:4],1.5754808956
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.92598880861
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],4.97286853748
[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.98219074357
